US05925624
(S)-3-[[(1,1-Dimethylethoxy)carbonyl]amino]-hexanedioic acid 1-methyl 6-(phenylmethyl) ester
4-Methylmorpholine (2 ml) was added to a solution of t-butoxycarbonyl-L-glutamic acid 5-benzyl ester (6.75 g,20 mmol) in ethyl acetate (60 ml) at 0° C. i-Butyl chloroformate (2.61 ml,20 mmol) was then added to give a precipitate and the mixture was stirred for 15 min at 0° C. before filtering through celite into a flask at 0° C. The pad was washed with precooled ethyl acetate. The combined filtrate and wash was treated with diazomethane in ether (30 mmol in 100 ml) over 5 min and the reaction left at 0° C. for 3h before warming to room temperature. Excess diazomethane was removed by bubbling nitrogen through the solution which was then concentrated to give a yellow gum. The gum was dissolved in methanol (100 ml), treated with silver benzoate (1 g, 4.4 mmol) and triethylamine (10 ml,70 mmol) then stirred for 2.5h at room temperature. The black solution was concentrated under reduced pressure and the residue taken up in ethyl acetate (100 ml) then washed with saturated aqueous sodium bicarbonate solution (100 ml), water (100 ml), 1M aqueous potassium hydrogen sulphate solution (2×100 ml) and brine (100 ml). The dried (MgSO4) organic phase was evaporated to leave a yellow oil which was purified by column chromatography on flash silica eluting with a gradient of 15-50% ethyl acetate in cyclohexane to give the title compound (1.972 g) as a white solid which crystallised from cyclohexane m.p.60-61° C., [α]D -21° (CHCl3 c=1%).

reactant | 4-Methylmorpholine | 2 ml | CN1CCOCC1 | C5H11NO
reactant | t-butoxycarbonyl-L-glutamic acid 5-benzyl ester | 20 mmol, 6.75 g | C(C1=CC=CC=C1)OC(CC[C@H](NC(=O)OC(C)(C)C)C(=O)O)=O | C17H23NO6
reactant | i-Butyl chloroformate | 20 mmol, 2.61 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | ether | 30 mmol, 100 ml | CCOCC | C4H10O
reactant | triethylamine | 70 mmol, 10 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 100 ml | CO | CH4O
catalyst | silver benzoate | 4.4 mmol, 1 g | C(C1=CC=CC=C1)(=O)[O-].[Ag+]
product | (S)-3-[[(1,1-Dimethylethoxy)carbonyl]amino]-hexanedioic acid 1-methyl 6-(phenylmethyl) ester | 1.972 g | C1(=CC=CC=C1)COC(CC[C@@H](CC(=O)OC)NC(=O)OC(C)(C)C)=O | C19H27NO6
